US05116790
Neodymium titanate (Nd2O3.2TiO2) was prepared as follows. Neodymium acetate tetrahydrate (169.7 g, 0.50 mole) and Tyzor®-LA (290.3 g, 0.50 mole) were charged to a 500 ml flask under a nitrogen atmosphere. Tyzor®-LA is a 50% aqueous solution of the lactic acid ammonium salt of chelated titanium manufactured by E.I. du Pont de Nemours and Co., Wilmington, Del. ("Du Pont Co."). The charge was heated to reflux (99° C.) and maintained at reflux for about 30 mins. The temperature of the violet-colored solution was then adjusted to 80°-85° C.

reactant | Neodymium acetate tetrahydrate | 0.50 mole, 169.7 g | O.O.O.O.C(C)(=O)[O-].[Nd+3].C(C)(=O)[O-].C(C)(=O)[O-]
reactant | lactic acid ammonium salt | [NH4+].C(C(O)C)(=O)[O-]
reactant | titanium | [Ti] | Ti
product | Neodymium titanate | [O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Ti+4].[Ti+4].[Nd+3].[Nd+3] | InChI=1S/2Nd.7O.2Ti/q2*+3;7*-2;2*+4
